US05268377
To a mixture of ethyl 2-n-propyl-3-{2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (1.00 g), cyanoacetic acid (0.36 g) and methylene chloride (20 ml) is added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.82 g) at room temperature. The reaction mixture is stirred overnight at room temperature, and then washed with 2% aqueous hydrochloric acid and brine. The organic layer is dried and evaporated to remove the solvent. The crude residue is purified by silica gel column chromatography (solvent; chloroform/methanol) to give ethyl 2-n-propyl-3-{2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl-5-cyanoacetyl-4,5,6,7-tetrahydroimidazo[4,5-c}pyridine-4-carboxylate (0.76 g) as white foam.

reactant | ethyl 2-n-propyl-3-{2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 1.00 g | C(CC)C1=NC2=C(C(NCC2)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C26H29N7O2
reactant | cyanoacetic acid | 0.36 g | C(#N)CC(=O)O | C3H3NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.82 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-n-propyl-3-{2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl-5-cyanoacetyl-4,5,6,7-tetrahydroimidazo[4,5-c}pyridine-4-carboxylate | 0.76 g | C(CC)C1=NC2=C(C(N(CC2)C(CC#N)=O)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C29H30N8O3
